US07074800B1
A solution of 7-benzyloxy-4-(indol-5-yloxy)-6-methoxyquinazoline (8 g, 20 mmol) in DMF (50 ml) and methylene chloride (100 ml) containing 10% palladium on charcoal (2 g) was hydrogenated at 1.8 atmospheres pressure until uptake of hydrogen had ceased. The solution was filtered, the catalyst was washed with DMF and the filtrate was evaporated. The residue was purified by column chromatography eluting with methylene chloride, followed by methylene chloride/methanol (95/5 and 90/10). After evaporation of the solvent, the residue was triturated with ether, filtered and dried under vacuum to give 7-hydroxy-4-(indol-5-yloxy)-6-methoxyquinazoline (2.7 g; 44%).

reactant | 7-benzyloxy-4-(indol-5-yloxy)-6-methoxyquinazoline | 20 mmol, 8 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C=CNC2=CC1)OC | C24H19N3O3
reactant | hydrogen | [H][H] | H2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | palladium on charcoal | 2 g | [Pd] | Pd
product | 7-hydroxy-4-(indol-5-yloxy)-6-methoxyquinazoline | 2.7 g, 44% | OC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C=CNC2=CC1)OC | C17H13N3O3
